US05306718
(a) 3-(4'-Methoxyphenyl)-2-propyn-1-ol
Diethylamine (80 mL, propargyl alcohol (6.4 mL, 0.11 mol), copper(I)iodide (0.7 g), tetrahydrofuran (25 mL), and tetrakis(triphenylphosphine)palladium(o) (1.2 g) were placed in a 250-mL flask under nitrogen. A solution of p-iodoanisole (23.4 g, 0.1 mol) in 40 mL of tetrahydrofuran was added to the reaction dropwise over 30 minutes. The reaction was stirred for 16 hours at room temperature, then evaporated in vacuo to give a dark brown residue. The residue was dissolved in 200 mL of water and extracted four times with diethyl ether (200 mL). The combined extracts were dried over anhydrous sodium sulfate and evaporated to give a dark brown solid that was purified by column chromatography (silica gel), eluting with 9:1 hexane-ethyl acetate to give 15.38 g of the title product.

reactant | Diethylamine | C(C)NCC | C4H11N
reactant | propargyl alcohol | 0.11 mol, 6.4 mL | C(C#C)O | C3H4O
reactant | p-iodoanisole | 0.1 mol, 23.4 g | IC1=CC=C(C=C1)OC | C7H7IO
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
catalyst | copper(I)iodide | 0.7 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(o) | 1.2 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-(4'-Methoxyphenyl)-2-propyn-1-ol | 15.38 g | COC1=CC=C(C=C1)C#CCO | C10H10O2
